US04382765
(I) N-(2-hydroxyethyl)-oxazolidine-2-one
This compound was prepared from diethylcarbonate and diethanolamine in accordance with the method of E. K. Drechsel in the Journal of Organic Chemistry 22 (1957), page 851. A clear, slightly colored liquid having a boiling point of 154° was obtained.

reactant | diethylcarbonate | C(C)OC(OCC)=O | C5H10O3
reactant | diethanolamine | N(CCO)CCO | C4H11NO2
product | N-(2-hydroxyethyl)-oxazolidine-2-one | OCCN1C(OCC1)=O | C5H9NO3
